Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
A ___ year old female with PMH cholelithiasis presented to the 
___ ED with complaints of intermittent epigastric abdominal 
pain. Three days ago she had multiple episodes of non-bloody 
emesis and epigastric pain which resolved with acetaminophen. 
She states that she had lower back pain 6 days ago which 
resolved with ibuprofen. Ibuprofen also caused stomach upset.  
She denied shortness of breath, chest pain, diarrhea, dysuria, 
joint or muscular pain.  She reported she was constipated.  She 
reported that at least 4 family members had symptoms of 
nausea/vomiting/diarrhea/fever.
.
In the ED, initial vs were: T96.7 ___ bp107/68 rr18 SaO2 100% 
RA . Labs were remarkable for WBC 18.6 with 91.9 %PMN. Cr 1.3 
(baseline 0.8 ___. UA was grossly positive and she was 
started on Cipro 500mg PO, Ceftriaxone 1g IV, she became 
hyoptensive to 94/51, she was given 2L IVNS with blood pressure 
increased to 120's. Patient was given famotidine 20 mg, 
Aluminum-Magnesium Hydrox.-Simethicone 30 mL, Donnatol 5mL, 
Lidocaine Viscous 2% 20mL, with no effect. Also given 
ondansetron 8mg and acetaminophen 1000mg. She was admitted for 
further work up with admitting diagnosis of UTI. Vitals on 
transfer 99.9ax, bp121/66 p95 rr16 SaO299% RA
 
Past Medical History:
diet control HL
asymptomatic gall stones
 
Social History:
___
Family History:
father still alive at ___.
 
Physical Exam:
On Admission:
Vitals: 99.9ax, bp12___/66 p95 rr16 SaO299% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, ttp diffuse greatest in epigastric region, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: non-focal
Back: no flank pain 

On Discharge:
Vitals: 98.5 173/79 68 20 96%on RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, NT, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: non-focal
Back: no flank pain 
 
Pertinent Results:
On Admission:

___ 03:55PM BLOOD WBC-18.6*# RBC-3.82* Hgb-12.0 Hct-33.7* 
MCV-88# MCH-31.3 MCHC-35.5*# RDW-12.5 Plt ___
___ 03:55PM BLOOD Neuts-91.9* Lymphs-4.4* Monos-3.2 Eos-0.1 
Baso-0.3
___ 03:55PM BLOOD Glucose-154* UreaN-20 Creat-1.3* Na-136 
K-3.9 Cl-104 HCO3-22 AnGap-14
___ 03:55PM BLOOD ALT-46* AST-36 AlkPhos-146* TotBili-0.9
___ 06:35AM BLOOD ALT-20 AST-19 LD(LDH)-228 AlkPhos-128* 
TotBili-0.5
___ 07:15PM BLOOD Amylase-21
___ 07:33AM BLOOD Calcium-7.7* Phos-1.6* Mg-1.8
___ 06:35AM BLOOD Albumin-2.5* Calcium-7.8* Phos-1.5* 
Mg-1.9

___
Liver Ultrasound:

FINDINGS: The liver shows mildly increased echogenicity 
consistent with fatty
infiltration, but no focal lesion or intrahepatic biliary 
dilatation. The
portal vein is patent with directionally appropriate flow. 
Within the neck of
the gallbladder is a 2 cm shadowing stone. There is no wall 
edema or
pericholecystic fluid; hypoechogenicity in the gallbladder fossa 
is more
compatible with fatty sparing as opposed to pericholecystic 
fluid. No
sonographic ___ sign was elicited. The CBD measures 6 mm in 
caliber.
 
IMPRESSION:
1. Cholelithiasis secondary findings to suggest acute 
cholecystitis; top
normal CBD without intrahepatic biliary dilatation.
2. Mild fatty infiltration of the liver.

___
CXR:
FINDINGS: The cardiomediastinal and hilar contours are normal. 
The lungs are clear. There is no pleural effusion or 
pneumothorax. No subdiaphragmatic free air is demonstrated.
 
IMPRESSION: No acute cardiopulmonary process.

___
Renal Ultrasound:
FINDINGS: The right kidney measures 10.4 cm and the left kidney 
10.2 cm
without evidence of hydronephrosis, stones or obstructing 
masses. Mild
pelviectasis of the left kidney of unclear significance. There 
is no renal or perirenal fluid collection. The urinary bladder 
is normal.
 
IMPRESSION:
1. Mild left pelviectasis of unclear clinical significance. CT 
would be more sensitive in detecting ureteral stone.
2. No ___ hydronephrosis.
3. No renal or perirenal fluid collection. 

___
CT ABDOMEN AND PELVIS

CT ABDOMEN: There is ___ consolidation in the 
right base
which could represent developing or resolving infection. There 
is bilateral
moderate right greater than left pleural effusions associated 
with compressive atelectasis. The heart is normal in size 
without pericardial effusion.
 
The liver demonstrates no focal lesion. Trace ___ 
fatty
infiltration may be present. The gallbladder is distended, 
containing a large 2-cm stone near the neck. There is, however, 
no pericholecystic stranding or fluid. The CBD measures 7 mm. 
Trace simple perihepatic fluid is noted. The spleen, pancreas, 
and adrenal glands are unremarkable. Small and large bowel loops 
are normal in caliber and opacify normally with contrast.
 
The left kidney is enlarged and demonstrates delayed nephrogram 
with respect to the right kidney, with mild perinephric 
stranding and transcortical bands of hypoenhancement, for 
example (601B, 33), overall appearance suggestive of 
pyelonephritis. Similarly in the right kidney, along the upper 
pole, there is ill-defined hypoattenuation (601B, 32), raising 
question of involvement of the right as well. There is no 
hydronephrosis or hydroureter. There is no free air. Great 
vessels are patent. Atherosclerotic calcifications are seen in 
the infrarenal aorta extending into branching vessels.
 
CT PELVIS: The bladder, distal ureters, uterus, adnexa, and 
rectum appear
within normal limits. There is no inguinal or pelvic side wall 
adenopathy.
No free fluid in pelvis.
 
BONE WINDOW: No focal concerning lesion. Multilevel thoracic and 
lumbar
spondylosis is present, a large almost bridging osteophyte is 
present anterior
to L3-4.
 
IMPRESSION:
1. Findings highly concerning for bilateral pyelonephritis, left 
worse than
right.
2. Small ___ right lower lung consolidation 
with moderate
right greater than left pleural effusion. Question evolving or 
resolving
infection.
3. Cholelithiasis without CT evidence to suggest cholecystitis.
4. Trace perihepatic fluid.

On Discharge:

___ 06:30AM BLOOD WBC-11.9* RBC-3.24* Hgb-9.9* Hct-27.7* 
MCV-86 MCH-30.6 MCHC-35.8* RDW-13.0 Plt ___
___ 06:30AM BLOOD Glucose-100 UreaN-10 Creat-0.7 Na-140 
K-3.4 Cl-107 HCO3-25 AnGap-11
___ 06:30AM BLOOD Calcium-8.1* Phos-2.4* Mg-2.1
 
Brief Hospital Course:
This is a ___ yo female with asymptomatic cholelithiasis present 
with epigastric abdominal pain for likely gastroenteritis and 
pyelonephritis/UTI. 
.
# Urinary tract infection/Pyelonephritis. The patient presented 
with a fever to 103, WBC to 18.6 with 91.9 %PMN, and complaining 
of abdominal pain.  Her UA was grossly positive, although she 
was asymptomatic.  She was started on Cipro 500mg PO and 
Ceftriaxone 1g IV in the ED.  She became borderline hypotensive 
to 94/51 and she was given 2L NS with blood pressure increased 
to 120's. Patient was also given famotidine, maalox, Donnatol, 
and Viscous Lidocaine in the ED with no effect.  After 
admission, the patient was continued on ceftriaxone for coverage 
of her UTI, but continued to spike fevers and had a rising WBC 
up to 21.6 for two days after admission. Although her vitals 
remained stable throughout her hospital stay. Additional imaging 
was obtained which revealed bilateral pyelonephritis with L>R 
via CT scan.    Her antibiotic were switch from ceftriaxone to 
Zosyn on day 2 after she continued to spike fever.  Her initial 
urine culture grew back pan-sensitive E. coli, but a repeat 
culture 48 hours after admission was negative.  After the 
patient defervesced and her initial culture came back, her 
antibiotics were narrowed to Cipro.  She was discharge with 9 
additional days of Cipro, to complete a 14 day course of 
antibiotics for pyelonephritis.
.
# Abdominal pain: The patient was asymptomatic from her UTI, but 
complained of abdominal pain for 4 days after admission.  She 
presented after multiple episodes of nb/nb emesis a few days 
prior to admission.  She had multiple family member who were 
also sick, and it was speculated that the patient had succumb to 
the current outbreak of norovirus.  Patient with history of 
cholelithiasis, u/s did not show signs of cholecystits.  Lipase 
negative.  She also constipated on admission and she was given 
an aggressive bowel regime and stooled daily after admission, 
but this did not improve her abdominal pain.  It is also 
possible she had referred pain from her bilateral 
pyelonephritis.
.
# Acute kidney injury secondary to hypovolemia- The patient 
presented with a slightly elevated Cr to 1.3, which improve to 
her baseline of 0.7-0.9 after IVF hydration. 
 
Medications on Admission:
tylenol as need for fever
 
Discharge Medications:
1. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 9 days.
Disp:*18 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted for an urinary tract 
infection that also infected both of your kidneys.  You will 
need to take 9 more days of Ciprofloxacin, an antibiotic, to 
treat this infection.  We also believe that you had a viral 
gastrointestinal tract infection that should get better with 
time.  Please follow up with your primary care doctor within 2 
weeks of dicharge

Medication Changes:
Please start taking Cipro 500mg twice daily for 9 days
 
Followup Instructions:
___